US09334279B2
To a dry 2 dram vial equipped with a stir bar and charged with 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)pyrazine (37 mg, 0.11 mmol) was added tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate (46 mg, 0.076 mmol). To the vial was added DMSO (1.25 mL). The mixture was stirred for 2 minutes to afford a red, homogeneous solution. To the solution was added potassium tert-butoxide (43 mg, 0.38 mmol) to afford a very deep amber solution. The solution was stirred at room temperature for 2 h. To the solution was added aq. 1M HCl (3 mL) upon which a solid precipitated. The mixture was transfered to a 125 mL reparatory funnel and was diluted with water:brine (20 mL:20 mL). The mixture was extracted with EtOAc (2×30 mL). The combined organics were dried over MgSO4; filtered; then concentrated in vacuo to afford tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-((2-(4-isopropoxyphenyl)-6-(pyrazin-2-yl)pyridin-4-yl)oxy)-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate as a solid residue. MS: MS m/z 900.6 (M++1).

reactant | 2-(4-chloro-6-(4-isopropoxyphenyl)pyridin-2-yl)pyrazine | 0.11 mmol, 37 mg | ClC1=CC(=NC(=C1)C1=CC=C(C=C1)OC(C)C)C1=NC=CN=C1 | C18H16ClN3O
reactant | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-hydroxy-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | 0.076 mmol, 46 mg | O[C@@H]1C[C@@H]2N(C([C@H]([C@@H](CC(CC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3(CC3)C)=O)C)C)NC(OC(C)(C)C)=O)=O)C1 | C29H46N4O8S
reactant | potassium tert-butoxide | 0.38 mmol, 43 mg | CC(C)([O-])C.[K+]
reactant | HCl | 1M, 3 mL | Cl | ClH
solvent | DMSO | 1.25 mL | CS(=O)C | C2H6OS
product | tert-butyl ((2R,6S,7R,13aS,14aR,16aS,Z)-2-((2-(4-isopropoxyphenyl)-6-(pyrazin-2-yl)pyridin-4-yl)oxy)-7,9-dimethyl-14a-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-yl)carbamate | C(C)(C)OC1=CC=C(C=C1)C1=NC(=CC(=C1)O[C@@H]1C[C@@H]2N(C([C@H]([C@@H](CC(CC\C=C/[C@H]3[C@](NC2=O)(C3)C(NS(=O)(=O)C3(CC3)C)=O)C)C)NC(OC(C)(C)C)=O)=O)C1)C1=NC=CN=C1 | C47H61N7O9S
